US07714009B2
7-Nitro-N-(1-phenylethyl)-1,3-benzothiazol-2-amine
To 0.160 g (0.75 mmol) of 2-chloro-7-nitro-1,3-benzothiazole in 2 mL of 1-methyl-2-pyrrolidinone (NMP) was added 0.29 μL (2.2 mmol) of racemic α-methylbenzylamine. The reaction was stirred at room temperature for 18 h, diluted with water and extracted with dichloromethane. The organic layer was concentrated in vacuo and purified by flash chromatography eluting with a 25% ethyl acetate/hexanes mixture to give 0.165 g (74%) of the title compound as a light yellow solid which was used without further analysis in the subsequent step.

reactant | 2-chloro-7-nitro-1,3-benzothiazole | 0.75 mmol, 0.160 g | ClC=1SC2=C(N1)C=CC=C2[N+](=O)[O-] | C7H3ClN2O2S
reactant | racemic α-methylbenzylamine | 2.2 mmol, 0.29 μL | CC(C1=CC=CC=C1)N | C8H11N
solvent | 1-methyl-2-pyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 7-Nitro-N-(1-phenylethyl)-1,3-benzothiazol-2-amine | 0.165 g, 74% | [N+](=O)([O-])C1=CC=CC=2N=C(SC21)NC(C)C2=CC=CC=C2 | C15H13N3O2S
